US04399163
A. 3,5-Dimethyltetrahydrothiopyran-4-one
A mixture of 2 g. of sodium acetate and 25 ml. of ethanol was saturated with hydrogen sulfide gas. To this was added 7.0 g. (0.063 mole) diisopropenylketone while cooling in an ice bath until the reaction was no longer exothermic. The mixture was stirred at room temperature while passing hydrogen sulfide through the mixture for four hours then allowed to stand overnight. The ethanol and excess H2S were evaporated in vacuo and the residue taken up in ethyl ether, washed in turn with water, potassium carbonate solution, dilute hydrochloric acid, and water again. The ether extracts were dried (Na2SO4) and evaporated to provide 6.8 g. of oil. This was distilled in vacuo through a 10 cm. Vigreaux column to provide 1.67 g of product, B.P. 83°-86° C./9 mm. which was used in the next step without further purification.

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrogen sulfide | S | H2S
reactant | diisopropenylketone | 0.063 mole | C(=C)(C)C(=O)C(=C)C | C7H10O
solvent | ethanol | C(C)O | C2H6O
product | 3,5-Dimethyltetrahydrothiopyran-4-one | 1.67 g | CC1CSCC(C1=O)C | C7H12OS
